US04299821
3.93 g (15 mmoles) of Z-D-Pip-NH2 are dissolved in 75 ml of methanol, 0.5 g of a 10% palladium-on-carbon catalyst are added, and hydrogen is bubbled through the mixture for one hour. The catalyst is filtered off, the filtrate is evaporated, and the residue is triturated with ether. 1.70 g (90%) of H-D-Pip-NH2 are obtained: m.p.: 161°-163° C., Rf4 =0.10, [α]D25 =+31.0° (c=1%, in methanol).

reactant | Z-D-Pip-NH2 | 15 mmoles, 3.93 g | N1([C@@H](C(=O)N)CCCC1)C(=O)OCC1=CC=CC=C1 | C14H18N2O3
solvent | methanol | 75 ml | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | H-D-Pip-NH2 | 1.70 g, 90% | N1[C@@H](C(=O)N)CCCC1 | C6H12N2O
